US07378415B2
A suspension of 7-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one (0.09 g., 0.3 mmol), (2-chloro-ethyl)-dimethyl-amine hydrochloride (0.056 g., 0.39 mmol) and potassium carbonate (0.095 g., 0.69 mmol) in 0.7 mL ethyl acetate was refluxed for 1 hour. To the reaction mixture was added 0.75 mL water, and reflux was continued for 3 hours. 30 mL Ethyl acetate was added, and the reaction mixture was washed three times with 15 mL water, dried over magnesium sulfate and concentrated in vacuo. The residue was purifed by flash chromatography (0 to 5% methanol in dichloromethane) to afford 0.055 g (0.15 mmol, 50%) of 7-benzenesulfonyl-4-(2-dimethylamino-ethyl)-4H-benzo[1,4]oxazin-3-one. MS: 361 (M+H)+, mp: 232.9-235.3° C. (HCl salt).

reactant | 7-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one | 0.3 mmol, 0.09 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C14H11NO4S
reactant | (2-chloro-ethyl)-dimethyl-amine hydrochloride | 0.39 mmol, 0.056 g | Cl.ClCCN(C)C
reactant | potassium carbonate | 0.69 mmol, 0.095 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.75 mL | O | H2O
solvent | ethyl acetate | 0.7 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 7-benzenesulfonyl-4-(2-dimethylamino-ethyl)-4H-benzo[1,4]oxazin-3-one | 0.15 mmol, 0.055 g, 50% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(C(CO2)=O)CCN(C)C)C=C1 | C18H20N2O4S
